US07018988B2
(2S,4EZ)-4-benzylidene-1-[4-(dimethylamino)butanoyl]-N-(6-quinolinyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4-(dimethylamino)butanoyl chloride, and 6-quinolinamine the title compound was obtained in 71% purity by LC/MS. MS(ESI+): m/z=443.6.

reactant | (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H21NO4
reactant | 4-(dimethylamino)butanoyl chloride | CN(CCCC(=O)Cl)C | C6H12ClNO
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S,4EZ)-4-benzylidene-1-[4-(dimethylamino)butanoyl]-N-(6-quinolinyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)=C1C[C@H](N(C1)C(CCCN(C)C)=O)C(=O)NC=1C=C2C=CC=NC2=CC1 | C27H30N4O2
